US07642361B2
5-Amino-4-cyano-3-(2′methylsulfanyl-biphenyl-4-yl)-thiophene-2-carboxylic acid ethyl ester
Combine 5-amino-4-cyano-3-(4-iodo-phenyl)-thiophene-2-carboxylic acid ethyl ester (0.829 mmol) in dioxane and add 2-(methylthio)phenylboronic acid, tetrakis(triphenylphosphine)palladium (0), and 1.4 ml of 2M sodium carbonate solution and heat to reflux. After 3 hours, purification by radial chromatography (6000 micron Si plate) eluting with 10-20% ethylacetate/methylene chloride provides the title compound: 1H NMR (400 MHz, CDCl3) δ 7.49-7.19 (m, 8H), 5.26 (s, 2H), 4.17 (q, 2H, J=7.2 Hz), 2.38 (s, 3H), 1.18 (t, 3H, J=7.0 Hz), MS found (M+1) 395.1.

reactant | 5-amino-4-cyano-3-(4-iodo-phenyl)-thiophene-2-carboxylic acid ethyl ester | 0.829 mmol | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)I)C#N)N | C14H11IN2O2S
reactant | 2-(methylthio)phenylboronic acid | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | sodium carbonate | 2M, 1.4 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Amino-4-cyano-3-(2′methylsulfanyl-biphenyl-4-yl)-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C1=C(C=CC=C1)SC)C#N)N | C21H18N2O2S2
